US07713994B2
2-Amino-2-{4-[(6-bromo-1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-phenyl}-propionic acid
A mixture of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (191 mg, 0.50 mmole), N,N-dimethylformamide (2 mL) and 2-Amino-2-(4-amino-phenyl)-propionic acid (90 mg, 0.50 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is diluted with ether, filtered, washed with acetonitrile and dried to give a dull yellow solid 71 mg (33%), mp 250-253° C.; MS (ESI): m/z 428.2, 430.2 (M−H).

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.50 mmole, 191 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 2-Amino-2-(4-amino-phenyl)-propionic acid | 0.50 mmole, 90 mg | NC(C(=O)O)(C)C1=CC=C(C=C1)N | C9H12N2O2
solvent | ether | CCOCC | C4H10O
product | 2-Amino-2-{4-[(6-bromo-1,3-dioxo-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-phenyl}-propionic acid | 71 mg, 33% | NC(C(=O)O)(C)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)Br)=O)=O | C19H16BrN3O4
